US07741351B2
N-(5-{3-[(methylsulfonyl)methyl]phenyl}-2,3-dihydro-1H-inden-2-yl)-2-propanesulfonamide
The title compound was prepared from N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide and (3-bromophenyl)methyl methyl sulfone in a similar manner to Example 16.

reactant | N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide | CC1(OB(OC1(C)C)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C(C)C)C | C18H28BNO4S
reactant | (3-bromophenyl)methyl methyl sulfone | CS(=O)(=O)CC1=CC(=CC=C1)Br | C8H9BrO2S
product | N-(5-{3-[(methylsulfonyl)methyl]phenyl}-2,3-dihydro-1H-inden-2-yl)-2-propanesulfonamide | CS(=O)(=O)CC=1C=C(C=CC1)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C(C)C | C20H25NO4S2
